US08026257B2
(5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol.
To a solution of (5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methyl acetate (1.04 g, 2.60 mmol) in methanol (15 mL, 371 mmol) at room temperature was added potassium carbonate (200 mg, 1.45 mmol). After 20 min, the reaction was concentrated and the resulting residue partitioned between water and diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% EtOAc/Hex) gave 0.73 g (78%) as a colorless oil that solidified to an amorphous white solid upon standing. 1H-NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.81 (d, J=1.5, 1H), 7.43 (d, J=1.8, 1H), 5.90 (s, 2H), 4.97 (d, J=6.4, 2H), 3.49 (m, 2H), 3.43 (t, J=6.4, 1H), 0.83 (m, 2H), −0.09 (s, 9H); 13C NMR(126 MHz, CDCl3) δ ppm 136.7, 133.5, 131.1, 128.1, 125.9, 123.6, 114.4, 80.0, 66.6, 62.5, 17.8, −1.4.

reactant | (5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methyl acetate | 2.60 mmol, 1.04 g | C(C)(=O)OCC=1C=C(C=C2C=NN(C12)COCC[Si](C)(C)C)Br | C16H23BrN2O3Si
reactant | methanol | 371 mmol, 15 mL | CO | CH4O
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
product | (5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol | BrC=1C=C2C=NN(C2=C(C1)CO)COCC[Si](C)(C)C | C14H21BrN2O2Si
